US04157444
A 4.62 g. portion of 7-methyl-thieno[3,4-b][1,5]benzoxazepin-10(9H)-one is reacted with 4.60 g. of phosphorus pentachloride in 88 ml. of toluene as described in Example 7, to give 7-methyl-10-chloro-thieno[3,4-b][1,5]benzoxazepine. To this is added 40 ml. of dry toluene, 4.8 g. of N-ethylpiperazine and 10 ml. of triethylamine. The reaction is heated at 100° C. overnight, concentrated to a thick oil and treated as described in Example 3 giving the base compound which is then converted to the hemifumarate, m.p. 208°-209° C.

reactant | 7-methyl-thieno[3,4-b][1,5]benzoxazepin-10(9H)-one | CC=1C=CC2=C(NC(C=3C(O2)=CSC3)=O)C1 | C12H9NO2S
reactant | phosphorus pentachloride | P(Cl)(Cl)(Cl)(Cl)Cl | Cl5P
solvent | toluene | C1(=CC=CC=C1)C | C7H8
product | 7-methyl-10-chloro-thieno[3,4-b][1,5]benzoxazepine | CC=1C=CC2=C(N=C(C=3C(O2)=CSC3)Cl)C1 | C12H8ClNOS
